US04693992
Preparation of Manganese Lysocellin
A mixture of 6.5 g sodium lysocellin, 2.0 g manganese chloride and 100 ml of 90% ethanol was stirred and held at ambient temperature for 18 hours. Stirring was continued and water added slowly to precipitate a tacky semi-solid. Removal of the mother liquor by decantation and trituration of the residue with fresh water gave a filterable amorphous solid which was isolated and dried (6.4 g). The product had a melting point of 112.8° C. Analysis: Calculated % Mn (4.19); Found (3.75).

reactant | sodium lysocellin | 6.5 g | [Na].CC[C@H]([C@@H]1[C@H](C[C@@](O1)(C)[C@]2([C@@H](C[C@@](O2)(CC)[C@H](CC)O)C)O)C)C(=O)[C@@H](C)[C@H]([C@@H](C)[C@@H]3[C@H](C[C@H]([C@@H](O3)CC(=O)OO)C)C)O
reactant | manganese chloride | 2.0 g | [Cl-].[Mn+2].[Cl-]
reactant | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | Manganese Lysocellin | [Mn].CC[C@H]([C@@H]1[C@H](C[C@@](O1)(C)[C@]2([C@@H](C[C@@](O2)(CC)[C@H](CC)O)C)O)C)C(=O)[C@@H](C)[C@H]([C@@H](C)[C@@H]3[C@H](C[C@H]([C@@H](O3)CC(=O)OO)C)C)O | InChI=1S/C34H60O10.Mn/c1-11-24(29(38)22(8)28(37)23(9)30-19(5)14-18(4)25(41-30)15-27(36)43-40)31-20(6)16-32(10,42-31)34(39)21(7)17-33(13-3,44-34)26(35)12-2;/h18-26,28,30-31,35,37,39-40H,11-17H2,1-10H3;/t18-,19+,20+,21-,22+,23-,24+,25+,26+,28-,30+,31+,32+,33+,34-;/m1./s1
